US08247430B2
2-Chloro-5-nitro-phenol
A mixture of 2-chloro-4-nitroanisole (10 g, 53.3 mmol) and pyridinium chloride (50 g, 426 mmol) was heated at 200° C. for 3 h. After cooling to RT, the mixture was dissolved in 150 mL of aqueous 2N HCl and 150 mL of EtOAc. The organic phase was separated and was washed with aqueous 2N HCl (2×100 mL). The resulting organic phase was dried over MgSO4 and concentrated in vacuo. The title compound was obtained via chromatography (silica gel, 10:1 hexane/EtOAc) as a yellow solid.

reactant | 2-chloro-4-nitroanisole | 53.3 mmol, 10 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | pyridinium chloride | 426 mmol, 50 g | [Cl-].[NH+]1=CC=CC=C1
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-Chloro-5-nitro-phenol | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
